US08222416B2
To a mixture of toluene-4-sulfonic acid 1-(1-benzenesulfonyl-5-ethanesulfinyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl ester (80 mg, 0.134 mmol), 4-methylsulfonyl phenylboronic acid (80 mg, 0.401 mmol) and dichlorobis(triphenylphosphine)palladium (II) (9.4 mg, 0.013 mmol) in dioxane (1 mL) was added an aqueous sodium carbonate solution (2 M, 0.2 mL, 0.4 mmol). The resulting mixture was subjected to microwave irradiation for 2 h at 100° C. The mixture was diluted with ethyl acetate (10 mL), washed with a saturated aqueous sodium bicarbonate solution (2×3 mL), brine, dried over anhydrous sodium sulfate and then concentrated in vacuo. Purification by flash column chromatography (silica gel from QingDao, 200-300 mesh, 25% ethyl acetate/hexanes) afforded 1-benzenesulfonyl-2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-5-ethanesulfinyl-1H-pyrrolo[2,3-b]pyridine (56 mg, 72%) as a light yellow solid: LC/MS m/e calcd for C29H30N2O5S3 [M+H]+ 583.76, observed 583.2.

reactant | toluene-4-sulfonic acid 1-(1-benzenesulfonyl-5-ethanesulfinyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl ester | 0.134 mmol, 80 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)S(=O)CC)C(=CC2CCCC2)OS(=O)(=O)C2=CC=C(C=C2)C | C29H30N2O6S3
reactant | 4-methylsulfonyl phenylboronic acid | 0.401 mmol, 80 mg | CS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H9BO4S
reactant | sodium carbonate | 0.4 mmol, 2 M, 0.2 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium | 0.013 mmol, 9.4 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-benzenesulfonyl-2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-5-ethanesulfinyl-1H-pyrrolo[2,3-b]pyridine | 56 mg, 72% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)S(=O)CC)C(=CC2CCCC2)C2=CC=C(C=C2)S(=O)(=O)C | C29H30N2O5S3
